### ISSUE TITLE
proof: no facts about `Int.div` / `Int.mod` by a variable divisor, so quotient-remainder laws stay bounded

### ISSUE THREAD

**Issue by jasisz** [jasisz/aver#1417]
Division by a variable exports as `Except.withDefault (if n == 0 then … else Except.ok (a / n)) 0`. The closers know nothing about `/` and `%` with a non-literal divisor (`omega` handles only literal divisors), so the two basic facts below never become universal. Aver has no way to supply them: stating them as a `because` step only moves the same obligation to the same closers, and hand-written Lean proofs are no longer loaded.

```aver
module DivMod
    intent =
        "Division by a variable: the quotient-remainder identity and the remainder bounds."

fn quot(a: Int, n: Int) -> Int
    ? "a / n, zero when n is zero."
    Result.withDefault(Int.div(a, n), 0)

verify quot
    quot(7, 2) => 3

fn rem(a: Int, n: Int) -> Int
    ? "a % n, zero when n is zero."
    Result.withDefault(Int.mod(a, n), 0)

verify rem
    rem(7, 2) => 1

verify quot law quotRem
    given a: Int = [0, 1, 7, 100]
    given n: Int = [1, 2, 3, 7]
    when n >= 1
    n * quot(a, n) + rem(a, n) => a

verify rem law remBounds
    given a: Int = [0, 1, 7, 100]
    given n: Int = [1, 2, 3, 7]
    when n >= 1
    Bool.and(rem(a, n) >= 0, rem(a, n) < n) holds
```

```text
{"backend":"lean","bounded_laws":2,…,"passed":true,"sorries":0,"universal":false,"universal_laws":0}
```

Both close on the same export with core lemmas:

```lean
theorem quotRem_hand : ∀ (a n : Int), n ≥ 1 → n * quot a n + rem a n = a := by
  intro a n hn
  have h : (n == 0) = false := by simp; omega
  simp only [quot, rem, h]
  simp [Except.withDefault]
  exact Int.mul_ediv_add_emod a n

theorem remBounds_hand : ∀ (a n : Int), n ≥ 1 → (rem a n ≥ 0 && rem a n < n) = true := by
  intro a n hn
  have h : (n == 0) = false := by simp; omega
  simp only [rem, h]
  simp [Except.withDefault]
  exact ⟨Int.emod_nonneg _ (by omega), Int.emod_lt_of_pos _ (by omega)⟩
-- both depend on axioms: [propext, Quot.sound]
```

Adding `Int.mul_ediv_add_emod`, `Int.emod_nonneg` and `Int.emod_lt_of_pos` (with the `n ≠ 0` side goal discharged by `omega` from the `when`) to the builtin-facts set would make laws over a bill split, a paging calculation or any `q * n + r` decomposition provable.

`main` at `6df7aa70` (aver 0.30.0-dev), Lean 4.32.0, `aver proof <file> --verify-mode auto -o out --check-json`.
